US06358949B1
A solution of 5.0 9 (30.0 mmole) of 2-(chloromethyl)benzimidazole in 25 mL of anhydrous 1-methyl-2-pyrrolidinone is treated at 0° C. with 17.4 mL (150 mmole) of isoamylamine. The reaction mixture is allowed to warm to room temperature and stir for 16 hr. The reaction mixture is poured into 800 mL of ice/water, and the tan solid filtered and dried to afford 6.08 g (93%) of (benzimidazol-2-ylmethyl)(3-methylbutyl)amine.

reactant | 2-(chloromethyl)benzimidazole | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | isoamylamine | 150 mmole, 17.4 mL | C(CC(C)C)N | C5H13N
solvent | 1-methyl-2-pyrrolidinone | 25 mL | CN1C(CCC1)=O | C5H9NO
product | (benzimidazol-2-ylmethyl)(3-methylbutyl)amine | 6.08 g, 93% | N1=C(NC2=C1C=CC=C2)CNCCC(C)C | C13H19N3
